US06288082B1
6,7-Dimethoxy-4-(quinoline-6-ylamino)-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 150, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 173.8 mg (1.2 mmol) of 6-aminoquinoline and 115.6 mg (1 mmol) of pyridine hydrochloride in 15 mL of 2-ethoxyethanol was refluxed for 6 hr. The work up gave 212.5 mg (59.5%) of the product as a orange solid, m.p. 241-243° C., mass (electrospray, m/e): M+H 356.8. HRCIMS: calcd 356.127 for C20H17N5O2 (M+), obsd 356.1275.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 6-aminoquinoline | 1.2 mmol, 173.8 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 6,7-Dimethoxy-4-(quinoline-6-ylamino)-quinoline-3-carbonitrile | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC=1C=C2C=CC=NC2=CC1 | C21H16N4O2
